US07005431B2
d) 3′-(5,5-Dimethyl-[1,3,2]dioxaborolan-2-yl)-6,2′,6′-trifluorobiphenyl-2-carbonitrile
A mixture of 3′-bromo-6,2′,6′-trifluorobiphenyl-2-carbonitrile (0.3745 g, 1.20 mmol), dried potassium acetate (0.2327 g, 2.37 mmol) and bis(neopentyl glycolato)diboron (0.3529 g, 1.56 mmol) in 1,4-dioxane (9.8 ml) and dimethylsulfoxide (0.2 ml) was degassed by bubbling nitrogen through the mixture for 1 h. Dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct (30.0 mg, 0.037 mmol) was added and the mixture was heated at 85° C. under nitrogen for 18 h. After allowing to cool, the mixture was diluted with diethyl ether (10 ml), filtered through glass fibre paper, and the solid was washed with diethyl ether. The combined filtrates were evaporated in vacuo and the residue was dissolved in diethyl ether (20 ml) and extracted with 1 N aqueous NaOH (2×20 ml). The combined aqueous extracts were then acidified to pH 5 with concentrated hydrochloric acid and extracted with diethyl ether (2×20 ml). The combined organic extracts were washed with saturated aqueous NaCl (10 ml), dried (MgSO4) and evaporated in vacuo to afford 0.2401 g (57%) of the title compound as a brown oil: 1H NMR (360 MHz, CDCl3) δ 1.04 (6H, s), 3.79 (4H, s), 7.04(1H, t, J 8.8), 7.42 (1H, td, J 8.8, 1.1), 7.52 (1H, td, J 8.4, 4.9), 7.59(1H, dd, J 7.7, 1.1), 7.88(1H, dt, J 8.4, 7.0).

reactant | 3′-bromo-6,2′,6′-trifluorobiphenyl-2-carbonitrile | 1.20 mmol, 0.3745 g | BrC=1C(=C(C(=CC1)F)C=1C(=CC=CC1F)C#N)F | C13H5BrF3N
reactant | potassium acetate | 2.37 mmol, 0.2327 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 1.56 mmol, 0.3529 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
solvent | 1,4-dioxane | 9.8 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 0.2 ml | CS(=O)C | C2H6OS
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | Dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct | 0.037 mmol, 30.0 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3′-(5,5-Dimethyl-[1,3,2]dioxaborolan-2-yl)-6,2′,6′-trifluorobiphenyl-2-carbonitrile | 0.2401 g, 57% | CC1(COB(O1)C=1C(=C(C(=CC1)F)C=1C(=CC=CC1F)C#N)F)C | C17H13BF3NO2
